US07507734B2
c) 4-(3-Ethyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one
60 mg 3-Ethyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole is dissolved in 0.5 ml ethanol and 0.5 ml 1N aqueous NaOH solution. The reaction mixture is stirred at 150° C. in microwave apparatus (200 W). The reaction mixture is directly applied to HPLC chromatography to isolate the product (RP18 column, acetonitrile/water, 0.05% HCOOH)

reactant | 3-Ethyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole | 60 mg | C(C)C1=C(NC2=CC=CC=C12)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C20H18N4O
reactant | acetonitrile water | C(C)#N.O
reactant | HCOOH | C(=O)O | CH2O2
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 0.5 ml | [OH-].[Na+]
product | 4-(3-Ethyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | C(C)C1=C(NC2=CC=CC=C12)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C19H16N4O
